US07365095B2
To a solution of (R)-2-(azidomethyl)-6-fluoro-8-(2-methoxyphenyl)-chroman (210 mg, 0.67 mmol) in tetrahydrofuran (15 mL) and water (0.5 mL) was added triphenylphosphine (0.21 g, 0.80 mmol) and the reaction mixture stirred at room temperature for 24 hours. Chromatography with 0–10% methanol in ethyl methylene chloride plus 1% NH4OH afforded [(R)-6-fluoro-8-(2-methoxyphenyl)-3,4-dihydro-2H-chromen-2-yl]methanamine as a colorless oil. The oil was dissolved in ethyl acetate and made into its hydrochloride salt (0.95 g, 69%) as a white solid using excess ethereal hydrochloric acid, mp 100° C. decomposed; MS (ES) m/z 288.1 ([M+H]+); [α]D25=−34.64° (c=5.7 mg/0.7 mL MeOH).

reactant | (R)-2-(azidomethyl)-6-fluoro-8-(2-methoxyphenyl)-chroman | 0.67 mmol, 210 mg | N(=[N+]=[N-])C[C@@H]1OC2=C(C=C(C=C2CC1)F)C1=C(C=CC=C1)OC | C17H16FN3O2
reactant | triphenylphosphine | 0.80 mmol, 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | ethyl methylene chloride | C(C)C(Cl)Cl | C3H6Cl2
solvent | NH4OH | [NH4+].[OH-]
product | [(R)-6-fluoro-8-(2-methoxyphenyl)-3,4-dihydro-2H-chromen-2-yl]methanamine | FC=1C=C2CC[C@@H](OC2=C(C1)C1=C(C=CC=C1)OC)CN | C17H18FNO2
